US09120749B2
trans-N1,N1-Dimethylcyclohexane-1,4-diamine
To a solution of tert-butyl trans-4-(dimethylamino)cyclohexylcarbamate (805 mg, 3.33 mmol) was added TFA (5 mL) and the reaction mixture was heated at 75° C. for 18 h. The reaction mixture was concentrated and the residue was eluted through an ion-exchange column (using methanol and 7 N methanol in ammonia) to obtain the desired product as the free base (400 mg, 85%) as an orange oil: ESI MS m/z 143 [C8H18N2+H]+.

reactant | tert-butyl trans-4-(dimethylamino)cyclohexylcarbamate | 3.33 mmol, 805 mg | CN([C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C | C13H26N2O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | trans-N1,N1-Dimethylcyclohexane-1,4-diamine | CN([C@@H]1CC[C@H](CC1)N)C | C8H18N2
